US05840732
ii) Synthesis of 5-heptylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.99 g (4.76 mmol) of 5-heptylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 30 ml of methanol, 0.42 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 2.31 g (quant., yellow-orange oily substance) of the desired product.

reactant | 5-heptylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 4.76 mmol, 1.99 g | C(CCCCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C21H27N3O2S2
reactant | hydrochloric acid | 0.42 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 5-heptylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCCCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C21H27N3O2S2.ClH/c1-2-3-4-5-6-10-17-20(25)24(21(26)28-17)14-7-8-16-27-19-12-9-11-18-22-13-15-23(18)19;/h9-13,15H,2-8,14,16H2,1H3;1H
